US06911543B2
Furo[2,3-c]pyridin-5-ylmethyl acetate (956 mg, 5 mmol) is dissolved in CH2Cl2 (40 mL) and cooled to 0° C. Chlorine gas is bubbled through the solution for 15 min, the cooling bath is immediately removed and the mixture stirred for 2 h. The mixture is re-cooled to 0° C., saturated with chlorine gas, the cooling bath removed and the solution warmed to rt. The solution is layered with saturated NaHCO3 (20 mL), stirred gently for 2 h then stirred vigorously for 15 min. The mixture is diluted with saturated NaHCO3 (50 mL), extracted with CH2Cl2 (1×40 mL then 1×20 mL), dried over K2CO3 and concentrated to a volume of 20 mL under a stream of nitrogen. The solution is diluted with EtOH (35 mL), treated with K2CO3 (4.09 g, 29.6 mmol) and stirred for 18 h at rt. Water (7 mL) is added and the mixture stirred for 2 days. The mixture is concentrated to dryness, partitioned between 50% saturated NaCl (50 mL) and CH2Cl2 (4×50 mL), dried over K2CO3 and concentrated in vacuo to a brown solid (833 mg). The crude material is chromatographed over a standard 40 g Biotage column, eluting with 50% EtOAc/hexane. The appropriate fractions are combined and concentrated to afford 624 mg (68%) of (3-chlorofuro[2,3-c]pyridin-5-yl)methanol as a yellow oil. 1H NMR (DMSO-d6): δ 4.69, 5.56, 7.69, 8.55, 8.93 ppm.

reactant | Furo[2,3-c]pyridin-5-ylmethyl acetate | 5 mmol, 956 mg | C(C)(=O)OCC=1C=C2C(=CN1)OC=C2 | C10H9NO3
reactant | K2CO3 | 29.6 mmol, 4.09 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 7 mL | O | H2O
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (3-chlorofuro[2,3-c]pyridin-5-yl)methanol | 624 mg, 68% | ClC1=COC2=CN=C(C=C21)CO | C8H6ClNO2
